US07893055B2
Ethyl 3-(benzyloxy)-4-oxo-6,7,8,10-tetrahydro-4H-pyrimido[2,1-c][1,4]thiazepine-2-carboxylate:
A mixture of ethyl 2-((3-chloropropylthio)methyl)-5-hydroxy-6-oxo-1,6-dihydropyrimidine-4-carboxylate (5 g, 16 mmol) and K2CO3 (4.5 g, 32.5 mmol) in DMF (150 mL) was placed in preheated oil bath and stirred for 1.5 h. After this, benzylbromide (2.4 mL, 20 mmol) was added and continued stirring for additional 3 h. Then, the reaction mixture was cooled, diluted with ether (250 mL0, washed with water (3×50 mL). The combine aq. layers extracted with ether (4×100 mL) and combined with previous organic phase, and washed with brine (50 mL). The organic layer was dried (Na2SO4/activated carbon), filtered and concentrated to give viscous paste. Crystalization of this paste from CH2Cl2/hexanes provided the product as a white solid (4.4 g, 75%). 1H NMR (500 MHz, CDCl3) δ: 7.48-7.46 (2H, m), 7.37-7.30 (3H, m), 5.25 (2H, s), 4.36-4.31 (4H, m), 3.89 (2H, s), 2.94 (2H, t, J=5.6 Hz), 2.16-2.12 (2H, m), 1.30 (3H, t, J=7.0 Hz). HRMS (M+H) calcd for C18H21N2O4S: 361.1222; found: 361.1221.

reactant | ethyl 2-((3-chloropropylthio)methyl)-5-hydroxy-6-oxo-1,6-dihydropyrimidine-4-carboxylate | 16 mmol, 5 g | ClCCCSCC=1NC(C(=C(N1)C(=O)OCC)O)=O | C11H15ClN2O4S
reactant | K2CO3 | 32.5 mmol, 4.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzylbromide | 20 mmol, 2.4 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | Ethyl 3-(benzyloxy)-4-oxo-6,7,8,10-tetrahydro-4H-pyrimido[2,1-c][1,4]thiazepine-2-carboxylate | 4.4 g, 75% | C(C1=CC=CC=C1)OC1=C(N=C2CSCCCN2C1=O)C(=O)OCC | C18H20N2O4S
